US08912200B2
N′-(2-Ethynylphenyl)-N,N-dimethylethane-1,2-diamine
N-(2-Chloroethyl)-2-ethynylaniline (0.5 g, 2.79 mmol) in ACN (16 mL) was treated with 2M dimethylamine in THF (4.2 mL, 8.37 mmol), sodium iodide (1.25 g, 8.37 mmol), sodium carbonate (887 mg, 8.37 mmol) and heated in a sealed tube at 80° C. (oil bath temperature) for 15 h, with stirring. EtOAc was added (100 mL) and the organic phase was washed first with water (100 mL) and then with brine. Removal of the volatiles by evaporation, after drying over sodium sulfate and purification of the crude over silica gel (DCM/7N NH3 in MeOH 9/1) afforded the title compound (265 mg, 50%).

reactant | N-(2-Chloroethyl)-2-ethynylaniline | 2.79 mmol, 0.5 g | ClCCNC1=C(C=CC=C1)C#C | C10H10ClN
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | THF | 8.37 mmol, 4.2 mL | C1CCOC1 | C4H8O
reactant | sodium iodide | 8.37 mmol, 1.25 g | [I-].[Na+]
reactant | sodium carbonate | 8.37 mmol, 887 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ACN | 16 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N′-(2-Ethynylphenyl)-N,N-dimethylethane-1,2-diamine | 265 mg, 50% | C(#C)C1=C(C=CC=C1)NCCN(C)C | C12H16N2
